US05059608
A solution of 1-phenyl-3,4-dihydroisoquinoline (1.0 g) and allyl bromide (0.44 ml) in acetonitrile (10 ml) was refluxed for 2 hours. After cooling it to room temperature, the solvent was evaporated in vacuo and then the residue was stirred in diethyl ether (15 ml) at room temperature. To the mixture was added 3M diethyl ether solution of methylmagnesium bromide (2.0 ml). After 1 hour, the mixture was poured into aqueous ammonium chloride solution. The organic layer was washed with water, sodium chloride aqueous solution and dried over magnesium sulfate, and evaporated in vacuo to give 1-methyl-1-phenyl-2-allyl-1,2,3,4-tetrahydroisoquinoline (0.7 g).

reactant | 1-phenyl-3,4-dihydroisoquinoline | 1.0 g | C1(=CC=CC=C1)C1=NCCC2=CC=CC=C12 | C15H13N
reactant | allyl bromide | 0.44 ml | C(C=C)Br | C3H5Br
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-methyl-1-phenyl-2-allyl-1,2,3,4-tetrahydroisoquinoline | 0.7 g | CC1(N(CCC2=CC=CC=C12)CC=C)C1=CC=CC=C1 | C19H21N
